US07767680B2
Step ii. Ethyl 2-chloro-4-(2-chlorophenyl)pyrimidine-5-carboxylate
In a microwave tube was added 1 eq. of ethyl 2,4-dichloropyrimidine-5-carboxylate (200mg, 0.91 mmol), 0.5 eq. of 3-chlorophenyl boronic acid (67 mg), 0.1 eq. of Pd2(dba)3 (83 mg), 3 eq. of K3PO4 in 4 mL of Dioxane. To this solution was added 1 eq. of tri-(t-butyl) phospine. The reaction was heated in the microwave to 160° C./300 W/for 1200 sec. The crude product was purified by prep HPLC. ES+=296.8.

reactant | ethyl 2,4-dichloropyrimidine-5-carboxylate | 0.91 mmol, 200mg, 1 eq. | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 3-chlorophenyl boronic acid | 67 mg, 0.5 eq. | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | K3PO4 | 3 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tri-(t-butyl) phospine | 1 eq. | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 83 mg, 0.1 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl 2-chloro-4-(2-chlorophenyl)pyrimidine-5-carboxylate | ClC1=NC=C(C(=N1)C1=C(C=CC=C1)Cl)C(=O)OCC | C13H10Cl2N2O2
